US04024181
7-[3,3-dimethyl-8-[3-pentyl-3-tetrahydropyranyloxy-trans-1-propenyl]-1,5-dioxaspiro [5,4]-dec-7-yl]-cis-5-heptenoic acid XV
640 mg of 80 % sodium hydride and 6 ml of dimethyl sulfoxide were heated for 1 hour to 65° C and, after cooling to room temperature, 4.7 g of 4-carboxybutyl-triphenylphosphonium-bromide in 8 ml of dimethylsulfoxide under argon were added and stirred for 20 minutes. To the red solution, 1.7 g of [3,3-dimethyl-8-[3-pentyl-3-tetra-hydropyranyloxy-trans-1-propenyl]-1,5-dioxaspiro-[5,4]-dec-7-yl]-acetaldehyde in 4 ml of dimethylsulfoxide were added dropwise and stirred for 15 hours at room temperature. 5% sodium hydrogen sulfate solution was added to that solution until pH 1 was reached, 50 ml of saturated sodium chloride solution were added and the mixture was esterified 3 times with 200 ml of diethyl ether, the combined organic phases were washed with water, dried and condensed.

reactant | sodium hydride | 640 mg | [H-].[Na+]
reactant | 4-carboxybutyl-triphenylphosphonium-bromide | 4.7 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | [3,3-dimethyl-8-[3-pentyl-3-tetra-hydropyranyloxy-trans-1-propenyl]-1,5-dioxaspiro-[5,4]-dec-7-yl]-acetaldehyde | 1.7 g | CC1(COC2(OC1)C(C(CC2)\C=C\C(OC2OCCCC2)CCCCC)CC=O)C | C25H42O5
reactant | sodium hydrogen sulfate | S(=O)(=O)(O)[O-].[Na+]
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | dimethylsulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 7-[3,3-dimethyl-8-[3-pentyl-3-tetrahydropyranyloxy-trans-1-propenyl]-1,5-dioxaspiro [5,4]-dec-7-yl]-cis-5-heptenoic acid | CC1(COC2(OC1)C(C(CC2)\C=C\C(OC2OCCCC2)CCCCC)C\C=C/CCCC(=O)O)C | C30H50O6
